US08871753B2
Step D: 6-Chloro-2,4,8,15,23-pentaazatetracyclo[15.3.1.1(3,7).1(9,13)]tricosa-1(21),3(23),4,6,9(22),10,12,17,19-nonaen-16-one hydrochloride
To a solution of 3-amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}benzamide (80.0 mg, 0.206 mmol) in 2-methoxyethanol (1.1 mL) was added 4.0 M of hydrogen chloride in 1,4-dioxane (154 μL). The resulting mixture was heated at 150° C. in a microwave for 15 min. The cloudy mixture was filtered. The crude cake was recrystallized from MeOH to give the desired product as an off-white powder (25 mg, 34%). LCMS for C18H14ClN5O (M+H)+: m/z=352.0. 1H NMR (400 MHz, DMSO-d6): δ 10.06 (s, 1H), 9.50 (t, J=2.0 Hz, 1H), 9.05 (t, J=2.0 Hz, 1H), 8.24 (m, 1H), 7.86 (s, 1H), 7.75 (d, J=8.0 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.42 (d, J=8.0 Hz, 1H), 7.28 (m, 2H), 7.10 (t, J=7.6 Hz, 1H), 6.96 (d, J=8.0 Hz, 1H), 4.42 (d, J=6.0 Hz, 2H).

reactant | 3-amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}benzamide | 0.206 mmol, 80.0 mg | NC=1C=C(C(=O)NCC2=CC(=CC=C2)NC2=NC(=NC=C2Cl)Cl)C=CC1 | C18H15Cl2N5O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 2-methoxyethanol | 1.1 mL | COCCO | C3H8O2
solvent | 1,4-dioxane | 154 μL | O1CCOCC1 | C4H8O2
product | 6-Chloro-2,4,8,15,23-pentaazatetracyclo[15.3.1.1(3,7).1(9,13)]tricosa-1(21),3(23),4,6,9(22),10,12,17,19-nonaen-16-one hydrochloride | 25 mg, 34% | Cl.ClC=1C=NC=2NC=3C=CC=C(C(NCC4=CC=CC(NC1N2)=C4)=O)C3 | InChI=1S/C18H14ClN5O.ClH/c19-15-10-21-18-23-14-6-2-4-12(8-14)17(25)20-9-11-3-1-5-13(7-11)22-16(15)24-18;/h1-8,10H,9H2,(H,20,25)(H2,21,22,23,24);1H
